US06855710B2
(Z)-3-[1-(4-aminomethylcarbonylaminomethyl-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride
Prepared analogously to Example 29a from (Z)-3-[1-(4-tert.butoxycarbonylaminomethylcarbonylaminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone and ethyl acetate/hydrogen chloride.

reactant | (Z)-3-[1-(4-tert.butoxycarbonylaminomethylcarbonylaminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)NCC(=O)NCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C29H29N5O6
reactant | ethyl acetate hydrogen chloride | C(C)(=O)OCC.Cl
product | (Z)-3-[1-(4-aminomethylcarbonylaminomethyl-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride | Cl.NCC(=O)NCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C24H21N5O4.ClH/c25-13-21(30)26-14-15-6-8-17(9-7-15)27-23(16-4-2-1-3-5-16)22-19-12-18(29(32)33)10-11-20(19)28-24(22)31;/h1-12,27H,13-14,25H2,(H,26,30)(H,28,31);1H/b23-22-;
